US06613942B1
To a sample of methyl 3-chloro-4-hydroxybenzoate (2 g) dissolved in ethanol (50 mL) was added hydrazine (1.8 mL). The reaction was refluxed overnight under nitrogen. Upon cooling the reaction vessel, the desired product crystallized out of solution. The white solid was isolated by filtration. Recrystallization from hot ethanol gave the 3-chloro-4-hydroxybenzoic acid hydrazide in 60% yield.

reactant | methyl 3-chloro-4-hydroxybenzoate | 2 g | ClC=1C=C(C(=O)OC)C=CC1O | C8H7ClO3
reactant | hydrazine | 1.8 mL | NN | H4N2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-chloro-4-hydroxybenzoic acid hydrazide | 60% yield | ClC=1C=C(C(=O)NN)C=CC1O | C7H7ClN2O2
